US08304547B2
Methyl 5-(morpholin-4-ylmethyl)-2-nitrobenzoate was allowed to undergo a reaction with iron and ammonium chloride in an ethanol-water mixed solvent to obtain methyl 2-amino-5-(morpholin-4-ylmethyl)benzoate.

reactant | Methyl 5-(morpholin-4-ylmethyl)-2-nitrobenzoate | N1(CCOCC1)CC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C13H16N2O5
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | iron | [Fe] | Fe
solvent | ethanol water | C(C)O.O
product | methyl 2-amino-5-(morpholin-4-ylmethyl)benzoate | NC1=C(C(=O)OC)C=C(C=C1)CN1CCOCC1 | C13H18N2O3
